US07405229B2
Freshly prepared sodium methoxide (0.45 M in methanol) was added to a methanol (20 mL) solution of (1R,2R,4R,5S)-4-bromo-2-(2-bromophenyl)-6-oxabicyclo [3.2.1] octan-7-one (5.43 g, 15.1 mmol) with stirrng at rt for 1.5 hours. The mixture was then treated with 0.5 M HCl (50 ml) and the methanol was removed by rotary evaporation under reduced pressure. The residue was partitioned between water and ethyl acetate and the layers separated. The aqueous phase was extracted with additional ethyl acetate and the combined organics were washed with water, 5% Na2CO3 (2×75 mL) and brine, and dried (Na2SO4). Concentration in vacuo yielded methyl (1R,2R,4R,5S)-4-bromo-2-(2-bromophenyl)-5-hydroxycyclohexanecarboxylate as a faint-yellow solid after trituration with ether/hexanes.

reactant | sodium methoxide | 0.45 M | C[O-].[Na+]
reactant | (1R,2R,4R,5S)-4-bromo-2-(2-bromophenyl)-6-oxabicyclo [3.2.1] octan-7-one | 15.1 mmol, 5.43 g | Br[C@@H]1C[C@H]([C@@H]2C(O[C@H]1C2)=O)C2=C(C=CC=C2)Br | C13H12Br2O2
reactant | HCl | 0.5 M, 50 ml | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | methyl (1R,2R,4R,5S)-4-bromo-2-(2-bromophenyl)-5-hydroxycyclohexanecarboxylate | Br[C@@H]1C[C@H]([C@@H](C[C@@H]1O)C(=O)OC)C1=C(C=CC=C1)Br | C14H16Br2O3
